US08703758B2
B) N-[(1S)-1-methyl-2-({1-[6-(2-methylpropoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)ethyl]acetamide
To tert-butyl [(1S)-1-methyl-2-({1-[6-(2-methylpropoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)ethyl]carbamate (97 mg) was added 4 M hydrogen chloride/ethyl acetate (5 mL), and the mixture was stirred at room temperature for 15 min and concentrated. To the residue were added pyridine (5 mL) and acetic anhydride (5 mL), and the mixture was stirred at room temperature for 15 min. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/methanol), and recrystallized from ethyl acetate/hexane to give the title compound (52 mg).

reactant | tert-butyl [(1S)-1-methyl-2-({1-[6-(2-methylpropoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)ethyl]carbamate | 97 mg | C[C@@H](COC1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)OCC(C)C)NC(OC(C)(C)C)=O | C24H37N3O5
reactant | hydrogen chloride ethyl acetate | 4 M, 5 mL | Cl.C(C)(=O)OCC
product | N-[(1S)-1-methyl-2-({1-[6-(2-methylpropoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)ethyl]acetamide | 52 mg | C[C@@H](COC1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)OCC(C)C)NC(C)=O | C21H31N3O4
